US07348425B2
Methyl 2-(2-acetylphenyl)-3-cyclohexyl-1H-indole-6-carboxylate
A 2M aqueous solution of Na2CO3 (2.5 mL, 5.0 mmol) was added to a mixture of; methyl 3-cyclohexyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-6-carboxylate (766 mg, 2.0 mmol), 2′-bromoacetophenone (478 mg, 2.4 mmol) and LiCl (170 mg, 4.0 mmol), in ethanol (5 mL) and toluene (5 mL). The mixture was then degassed by sequentially applying vacuum followed by flushing with N2. Pd(PPh3)4 (115 mg, 0.1 mmol) was then added and the reaction heated at 80° C. for 4 hr. The reaction mixture was then filtered and concentrated under reduced pressure. The resultant residue was purified by silica gel flash chromatography using hexanes to 20% ethyl acetate in hexanes as eluent to give the title compound as a white foam which could be crushed to a powder, (686 mg, 91% yield). MS m/z 374(M−H−); 1H NMR (500 MHz, CD3OD) δ ppm 1.30 (m, 1 H) 1.41-1.64 (m, 3H) 1.82-2.21 (m, 9 H) 3.26 (m, 1 H) 3.95 (s, 3 H) 7.40 (m, 1 H) 7.49 (m, 1 H) 7.61 (m, 1H) 7.69 (m, 1 H) 7.79 (m, 1 H) 7.84 (m, 1 H) 8.29 (s, 1 H).

reactant | Na2CO3 | 5.0 mmol, 2.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methyl 3-cyclohexyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-6-carboxylate | 2.0 mmol, 766 mg | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)B1OC(C(O1)(C)C)(C)C | C22H30BNO4
reactant | 2′-bromoacetophenone | 2.4 mmol, 478 mg | BrC1=C(C=CC=C1)C(C)=O | C8H7BrO
reactant | LiCl | 4.0 mmol, 170 mg | [Li+].[Cl-]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.1 mmol, 115 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 2-(2-acetylphenyl)-3-cyclohexyl-1H-indole-6-carboxylate | 91% yield | C(C)(=O)C1=C(C=CC=C1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C24H25NO3
